US06087380
a) Methyl 5-amino-6-chloro-nicotinate
A solution of 1.08 g (5.00 mMol) of methyl 6-chloro-5-nitro-nicotinate (see A. H. Berrie, G. T. Newbold, F. S. Spring in J. Chem. Soc., 2590, 1951) in 25 ml of absolute ethanol was mixed successively with 0.53 ml (29 mmol) of water, 3.2 g (57 mMol) of iron powder and 0.030 ml of concentrated hydrochloric acid and heated to boiling for one hour. Then equal quantities of water, iron powder and hydrochloric acid were added and the mixture was heated to boiling for 30 minutes. The precipitate formed on cooling was filtered off and washed with ethanol and the solvent was distilled off in vacuo. Yield: 0.75 g (81% of theory) of greenish-yellow solid, Rf value: 0.31 (silica gel;ethyl acetate/petroleum ether=1:4) C7H7ClN2O2 (186.60) YEF- Mass spectrum: M+ =186 and 188 (chlorine isotopes).

reactant | methyl 6-chloro-5-nitro-nicotinate | 5.00 mMol, 1.08 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
reactant | water | 29 mmol, 0.53 ml | O | H2O
reactant | hydrochloric acid | 0.030 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | iron | 57 mMol, 3.2 g | [Fe] | Fe
product | Methyl 5-amino-6-chloro-nicotinate | NC=1C(=NC=C(C(=O)OC)C1)Cl | C7H7ClN2O2
